US07683076B2
To a solution of concentrated sulfic acid is added concentrated nitric acid dropwise at −30° C. Quinolin-3-ol is added to the mixture at −30° C., and then stirred at 30° C. for 2 hours. After cooled to ambient temperature, the mixture is poured into water and then neutralized with aqueous 4N sodium hydroxide solution. After extracted with ethyl acetate, the organic layer is dried, filtered and concentrated under reduced pressure. The residue is purified by silica gel column chromatography to provide 5-nitroquinolin-3-ol.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | Quinolin-3-ol | N1=CC(=CC2=CC=CC=C12)O | C9H7NO
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | water | O | H2O
product | 5-nitroquinolin-3-ol | [N+](=O)([O-])C1=C2C=C(C=NC2=CC=C1)O | C9H6N2O3
